US05863947
A stirred mixture of 4-cyano-2-phenoxybenzaldeyde (2.23 g, 10 mmol), potassium cyanide (1.30 g, 20 mmol) and ammonium carbonate (3.84 g, 40 mmol) in ethanol-water (30 ml, 1:1) was heated to 80° C. for 2 hours in a sealed vessel. The mixture was diluted with water (30 ml), cautiously acidified to pH1 with 5M hydrochloric acid (20 ml) and extracted with ethyl acetate (30 ml). The extracts were washed with water (30 ml), dried, filtered and evaporated to a viscous brown oil (3.1 g). Chromatography on flash silica (graded elution with 2 to 4% methanol in dichloromethane) gave 5-(4-cyano-2-phenoxyphenyl)hydantoin as a yellow foam.

reactant | 4-cyano-2-phenoxybenzaldeyde | 10 mmol, 2.23 g | C(#N)C1=CC(=C(C=O)C=C1)OC1=CC=CC=C1 | C14H9NO2
reactant | potassium cyanide | 20 mmol, 1.30 g | [C-]#N.[K+]
reactant | ammonium carbonate | 40 mmol, 3.84 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | hydrochloric acid | 5M, 20 ml | Cl | ClH
reactant | ethanol water | 30 ml | C(C)O.O
solvent | water | 30 ml | O | H2O
product | 5-(4-cyano-2-phenoxyphenyl)hydantoin | C(#N)C1=CC(=C(C=C1)C1C(NC(N1)=O)=O)OC1=CC=CC=C1 | C16H11N3O3
